US07622583B2
4-Chloro-N-[5-chloro-2-(1-hydroxy-2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide
To a solution of 4-Chloro-N-[5-chloro-2-(2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide (100 mg, 0.182 mmol) in 3.5 mL of DCM was added meta-chloroperoxybenzoic acid (77%, 95 mg, 0.424 mmol). After thirty hours the crude mixture was added 1.0 ml of pyridine and the mixture was concentrated. The mixture was diluted with ethyl acetate, washed with water, dried over sodium sulfate and concentrated. The crude was used at next step without any further purification. MS: (M+H)/z=564.0.

reactant | 4-Chloro-N-[5-chloro-2-(2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | 0.182 mmol, 100 mg | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C(=NC=CC1C)C)C(F)(F)F | C22H18Cl2F3N3O4S
reactant | meta-chloroperoxybenzoic acid | 0.424 mmol, 95 mg | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | pyridine | 1.0 ml | N1=CC=CC=C1 | C5H5N
solvent | DCM | 3.5 mL | C(Cl)Cl | CH2Cl2
product | 4-Chloro-N-[5-chloro-2-(1-hydroxy-2,4-dimethyl-pyridine-3-carbonyl)-pyridin-3-yl]-N-methoxymethyl-3-trifluoromethyl-benzenesulfonamide | ClC1=C(C=C(C=C1)S(=O)(=O)N(COC)C=1C(=NC=C(C1)Cl)C(=O)C=1C(N(C=CC1C)O)C)C(F)(F)F | C22H20Cl2F3N3O5S
